US06380226B1
3-(N-Methyl-2(R)-pyrrolidinylmethyl)-5-(2-phenylsulphonylethyl)-1H-indole hydrobromide, α-form
49% w/w Hydrobromic acid (27.86 ml, 0.25 mol) was added over 1 hour to a stirred solution of 3N-methyl-2(R)-pyrrolidinylmethyl)-5-(2-phenylsulphonylethyl)-1H-indole (92.86 g, 0.24 mol) in 1,2-dimethoxyethane (2.08 l) at about 5° C. The cooling bath was removed and the resulting slurry was allowed to granulate by stirring at room temperature for a further 18 hours. Filtration, followed by washing with 1,2-dimethoxyethane and drying in vacuo, afforded the required product (97.9 g) as a solid, m.p. 150-151° C. Found: C,56.77; H,5.87; N,5.85. C22H26N2O2S; HBr requires C,57.02; H,5.87; N,6.04%.

reactant | Hydrobromic acid | 0.25 mol, 27.86 ml | Br | BrH
reactant | 5-(2-phenylsulphonylethyl)-1H-indole | 0.24 mol, 92.86 g | C1(=CC=CC=C1)S(=O)(=O)CCC=1C=C2C=CNC2=CC1 | C16H15NO2S
reactant | 1,2-dimethoxyethane | 2.08 l | COCCOC | C4H10O2
product | 3-(N-Methyl-2(R)-pyrrolidinylmethyl)-5-(2-phenylsulphonylethyl)-1H-indole hydrobromide | 97.9 g | Br.CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C22H26N2O2S.BrH/c1-24-12-5-6-19(24)15-18-16-23-22-10-9-17(14-21(18)22)11-13-27(25,26)20-7-3-2-4-8-20;/h2-4,7-10,14,16,19,23H,5-6,11-13,15H2,1H3;1H/t19-;/m1./s1
